### PR TITLE
Adapt to hornerE respecting exponents - math-comp's PR #923

### PR DESCRIPTION
**Pull request by SnarkBoojum**
This one-patch is making Abel compile with both the current hornerE and the proposed revision.

### CODE REVIEW

**Comment by SnarkBoojum** [comment]
I'm pretty sure the second patch works with the current hornerE, but I'm not sure it still flies with the proposed new one ; I'm going to check.

**Comment by SnarkBoojum** [comment]
Ok, now I think we have something!

File: theories/abel.v [hunk 1]
```diff
@@ -416,7 +416,7 @@ move=> n_gt0; have [->|xN0] := eqVneq x 0.
 rewrite [LHS](@all_roots_prod_XsubC _ _ ws).
 - by rewrite (monicP _) ?monic_XnsubC// scale1r big_map big_enum.
 - by rewrite size_XnsubC// size_map size_enum_ord.
-- rewrite all_map; apply/allP => i _ /=; rewrite /root !hornerE hornerXn.
+- rewrite all_map; apply/allP => i _ /=; rewrite /root !hornerE ?hornerXn.
```
Comment (proux01) [inline theories/abel.v:419]:
```suggestion
- rewrite all_map; apply/allP => i _ /=; rewrite /root !hornerE ?hornerXn.
(* FIXME: remove ?hornerXn above once requiring MathComp >= 1.16.0 *)
```

File: theories/abel.v [hunk 2]
```diff
@@ -433,7 +433,7 @@ Lemma dvdp_minpoly_Xn_subn E :
   (x ^+ p)%R \in E -> minPoly E x %| ('X^p - (x ^+ p)%:P).
 Proof using.
 move=> xpE; have [->|p_gt0] := posnP p; first by rewrite !expr0 subrr dvdp0.
-by rewrite minPoly_dvdp /root ?poly_XnsubC_over// !hornerE hornerXn subrr.
+by rewrite minPoly_dvdp /root ?poly_XnsubC_over// !hornerE ?hornerXn subrr.
```
Comment (proux01) [inline theories/abel.v:436]:
```suggestion
by rewrite minPoly_dvdp /root ?poly_XnsubC_over// !hornerE ?hornerXn subrr.
(* FIXME: remove ?hornerXn above once requiring MathComp >= 1.16.0 *)
```

File: theories/abel.v [hunk 3]
```diff
@@ -1505,7 +1505,7 @@ have Cchar := Cchar => p_neq0; split.
   move=> /radicalP[]; case: i => // i in epw * => _ uik.
   pose v := i.+1.-root (iota (u ^+ i.+1)).
   have : ('X ^+ i.+1 - (v ^+ i.+1)%:P).[iota u] == 0.
-    by rewrite !hornerE hornerXn rootCK// rmorphX subrr.
+    by rewrite !hornerE ?hornerXn rootCK// rmorphX subrr.
```
Comment (proux01) [inline theories/abel.v:1508]:
```suggestion
    by rewrite !hornerE ?hornerXn rootCK// rmorphX subrr.
    (* FIXME: remove ?hornerXn above once requiring MathComp >= 1.16.0 *)
```

File: theories/xmathcomp/various.v [hunk 4]
```diff
@@ -432,7 +432,7 @@ have Xxn0 : ('X - y%:P) ^+ n != 0 by rewrite ?expf_neq0 ?polyXsubC_eq0.
 apply/eqP; rewrite eqn_leq mup_leq ?mup_geq//.
 have [->|Nxy] := eqVneq x y.
   by rewrite /= dvdpp ?dvdp_Pexp2l ?size_XsubC ?ltnn.
-by rewrite dvd1p dvdp_XsubCl /root horner_exp !hornerE expf_neq0// subr_eq0.
+by rewrite dvd1p dvdp_XsubCl /root !hornerE ?horner_exp ?hornerE expf_neq0// subr_eq0.
```
Comment (proux01) [inline theories/xmathcomp/various.v:435]:
```suggestion
by rewrite dvd1p dvdp_XsubCl /root !hornerE ?horner_exp ?hornerE expf_neq0// subr_eq0.
(* FIXME: remove ?horner_exp ?hornerE above once requiring MathComp >= 1.16.0 *)
```

**Review by proux01 — APPROVED** [review]
Nitpicking

**Comment by SnarkBoojum** [comment]
I followed the suggestion.
